US05610145
BocNH(CH2)8OMe
To a vigorously stirred mixture of BocNH(CH2)8OH (392 mg, 1.6 mmol) and fluoroboric acid (210 μL, 1.6 mmol) in DCM (8 mL), the TMS CHN2 (800 μL, 1.6 mmol) was added dropwise at 0° C. The solution was stirred at 0° C. and three further additions of TMS CHN2 (400 μL, 0.8 mmol and 200 μL×2, 0.4 mmol) were added at 15-minute intervals. The mixture was stirred for a further 4 hours after which starting material was still visible by t.l.c. but no further evolution of the reaction was however apparent.

reactant | BocNH(CH2)8OH | 1.6 mmol, 392 mg | C(=O)(OC(C)(C)C)NCCCCCCCCO | C13H27NO3
reactant | fluoroboric acid | 1.6 mmol, 210 μL | F[B-](F)(F)F.[H+]
reactant | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | BocNH(CH2)8OMe | C(=O)(OC(C)(C)C)NCCCCCCCCOC | C14H29NO3
